US09059412B2
Into a solution of 3-bromobenzo[b]thiophene (40 g, 190 mmol) in glacial acetic acid (140 ml) was added a solution of nitric acid (74 ml, 1760 mmol) in glacial acetic acid (40 mL) over a period of 45 min. The reaction mixture was stirred at room temperature for 5 hours before quenching with water. The precipitate was isolated by filtration, washed with water and recrystallized from ethyl acetate/hexane (1/1, v/v) to yield 3-bromo-2-nitrobenzo[b]thiophene (35 g, 72%) as yellow crystals.

reactant | 3-bromobenzo[b]thiophene | 190 mmol, 40 g | BrC=1C2=C(SC1)C=CC=C2 | C8H5BrS
reactant | nitric acid | 1760 mmol, 74 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 140 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
product | 3-bromo-2-nitrobenzo[b]thiophene | 35 g, 72% | BrC=1C2=C(SC1[N+](=O)[O-])C=CC=C2 | C8H4BrNO2S
